US07326788B2
6-Chloro-4-phenyl-3-[3-(4-pyridin-2-yl-piperazin-1-ylmethyl)-isoxazol-5-yl]-1H-quinolin-2-one
From 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde and 1-pyridin-2-yl-piperazine according to procedure 24. Yield 32%.

reactant | 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C=O)C1=CC=CC=C1 | C19H11ClN2O3
reactant | 1-pyridin-2-yl-piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 6-Chloro-4-phenyl-3-[3-(4-pyridin-2-yl-piperazin-1-ylmethyl)-isoxazol-5-yl]-1H-quinolin-2-one | Yield 32% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)CN1CCN(CC1)C1=NC=CC=C1)C1=CC=CC=C1 | C28H24ClN5O2
